US07247734B2
Benzyltrimethylammonium tribromide (4.0 g, 10.2 mmol) was added portion-wise to a suspension of 4-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-benzene-1,3-diol (2.95 g, 10 mmol) in dichloromethane (50 ml) and the mixture stirred for ˜90 mins. The mixture washed with water (3×50 ml) and saturated aqueous sodium chloride solution (25 ml). The solution was dried over anhydrous magnesium sulphate and concentrated to give a pale yellow solid. Crude product was purified by column chromatography, on silica, eluting with ethyl acetate/hexane (1:2) to give 4-bromo-6-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-benzene-1,3-diol (1.75 g)

reactant | Benzyltrimethylammonium tribromide | 10.2 mmol, 4.0 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 4-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-benzene-1,3-diol | 10 mmol, 2.95 g | COC1=CC=C(C=C1)C=1C(=NNC1C)C1=C(C=C(C=C1)O)O | C17H16N2O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-bromo-6-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-benzene-1,3-diol | 1.75 g | BrC1=C(C=C(C(=C1)C1=NNC(=C1C1=CC=C(C=C1)OC)C)O)O | C17H15BrN2O3
